US05441972
Synthesis of pyridoxal cysteine (R1 =R2 =H)
Pyridoxal hydrochloride (2.7 g) and L-cysteine (1.6 g) were dissolved in water (40 ml). Thereto was dropwise added a 10% sodium hydroxide solution to make the pH 4.5. The mixture was left standing at a cool place to allow precipitation of white crystals. The crystals were collected by filtration and dissolved in 1N hydrochloric acid for recrystallization. The solution was adjusted to pH 5.0 with 1N sodium hydroxide to allow precipitation of white needle crystals. The crystals were collected by filtration, washed with water and dried under reduced pressure at 40° C. to give 1.8 g of pale yellow crystals, m.p. 135° C. (decomposition).

reactant | Pyridoxal hydrochloride | 2.7 g | CC1=NC=C(C(=C1O)C=O)CO.Cl
reactant | L-cysteine | 1.6 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | pyridoxal cysteine | 1.8 g | CC1=C(C(=C(C=N1)CO)C=O)O.N[C@@H](CS)C(=O)O | InChI=1S/C8H9NO3.C3H7NO2S/c1-5-8(12)7(4-11)6(3-10)2-9-5;4-2(1-7)3(5)6/h2,4,10,12H,3H2,1H3;2,7H,1,4H2,(H,5,6)/t;2-/m.0/s1
